US09278983B2
To a mixture of 6-bromo-2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (348 mg), [1,1-bis(diphenylphosphino)ferrocene]palladium(II) dichloride dichloromethane adduct (41 mg), and THF (5 mL), diisopropyl zinc (1 M in toluene, 2 mL) was added at room temperature. The mixture was stirred at room temperature for 4 hours, washed with water, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 290 mg of 2-(2-ethylsulfanyl-phenyl)-6-isopropyl-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 147).

reactant | 6-bromo-2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 348 mg | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | diisopropyl zinc | 1 M, 2 mL | C(C)(C)[Zn]C(C)C
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(2-ethylsulfanyl-phenyl)-6-isopropyl-3-methyl-3H-imidazo[4,5-b]pyridine | 290 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(C)C)N1C | C18H21N3S
